US04668625
After cooling to 0°-5° C. and filtration the reaction mixture was dried to obtain N-phenyl acetylaspartic acid (120 g), 99.77% titer. 78 g of N-phenylacetyl aspartic acid were suspended in 80 ml of acetic anidride. The mixture was heated to 80° for 2 hours. 70 g of N-phenylacetyl aspartic anhydride were obtained after cooling and insolubilization with a solvent. 52 g of N-phenylacetyl aspartic anhydride suspended in 52 ml of glacial acetic acid and 100 ml of dichloroethane cooled to 10° C. were added with 200 ml of dichloroethane containing 40.2 g of phenylalanine methyl ester.

reactant | N-phenylacetyl aspartic acid | 78 g | C1(=CC=CC=C1)CC(=O)N[C@@H](CC(=O)O)C(=O)O | C12H13NO5
solvent | acetic | 80 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | N-phenylacetyl aspartic anhydride | 70 g | C1(=CC=CC=C1)CC(=O)N[C@H]1CC(=O)OC1=O | C12H11NO4
